Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram - ___

 
History of Present Illness:
Mr. ___ is a ___ year old ___ driver with ___ year
smoking history who presents with chest pain. His chest pain
started one week ago, when he was having trouble getting up. He
had recently injured his back, and so was moving in such a way 
as
to not ___ it, using primarily his arms. He experienced
left sided, localized burning chest pain, which was initially
sharp and ___ and related to his arm movement. It
lasted a few minutes, and it resolved with ibuprofen. No
associated shortness of breath, nausea, vomiting, diaphoresis, 
or
dyspnea on exertion. Of note, he mentions his blood pressures at
home run high and he's had multiple visits to the ER for 
"crises"
related to high blood pressure.

On the day of presentation (___) while he was sitting, the pain
was less intense, which is what prompted him to present to an 
___ ED. On arrival there, his troponin was found to
be elevated to 0.288. On 2L oxygen via NC. He received full dose
ASA and was started on a heparin gtt. On arrival to ___, he 
had
CTA which revealed no PE. 

He was evaluated by cardiology in the emergency room, who
recommended: "Admit to ___ for NSTEMI, continue heparin. " He
was directed from the ED to the cath lab for coronary angiogram.
 
Past Medical History:
PAST MEDICAL HISTORY  
================== 
- Obesity
- Tobbaco use disorder
 
Social History:
___
Family History:
MGF, MGM MI. Mom with DVTs. No other family history of heart 
disease or stroke.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
T 97.8 PO BP 140/80 HR 86 RR 16  SpO2 92% RA
GENERAL: ___ morbidly obese male in
NAD. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP 10.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. Diffuse end expiratory
wheezes bilaterally.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Venous stasis dermatitis changes bilaterally. 2+
___ edema. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses 2+, palpable, and symmetric 

DISCHARGE PHYSICAL EXAM
=====================
VS: T 98.7 BP 141/83 HR 87 RR 19 SPO2 92 RA 
GENERAL: ___ morbidly obese male in
NAD. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP 10.
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. Diffuse end expiratory
wheezes bilaterally.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: Venous stasis dermatitis changes bilaterally. 2+
___ edema. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses 2+, palpable, and symmetric  

 
Pertinent Results:
ADMISSION LABS
=============
___ 02:55PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 02:55PM   ___
___ 02:55PM   ___ 
___
___ 02:55PM   ___ ___
___ 02:28AM   ___
___ 02:28AM   ___ 
___
___ 07:40PM   ___
___ 05:30PM   ___
___ 05:30PM   ___
___ 05:30PM   ___ 
___

PERTINENT STUDIES
===============
Coronary angiogram ___
- No angiographically apparent coronary artery disease.

TTE ___
IMPRESSION: Poor image quality. Grossly normal left ventricular 
cavity size and global systolic
function. Poor visualization of valves. No pericardial effusion.

DISCHARGE LABS
=============
___ 06:40AM BLOOD ___ 
___ Plt ___
___ 06:40AM BLOOD ___ ___
___ 06:40AM BLOOD ___ 
___
 
Brief Hospital Course:
====================
TRANSITIONAL ISSUES:
====================
[ ] may require imaging of lumbar spine for lower back pain if 
persistent.
[ ] check BP in 1 week and uptitrate home antihypertensive 
regimen (discharge BP - 141/83)
[ ] please consider pulmonology follow up for PFTs/sleep study 
given likely obesity hypoventilation syndrome
[ ] BMP within a week (___) to follow up electrolytes after 
starting lisinopril
[ ] FYI: HbA1c: 6.0 LDLc 107

[ ] continue encouraging tobacco cessation
[ ] continue encouraging weight loss and life style 
modification, can consider weight los surgery

- ___ Meds: lisinopril, albuterol inh
- Stopped/Held Meds: aspirin, motrin
- ___ appointments: PCP 

- ___ weight: 480 lbs
- Discharge creatinine: 0.9

# CODE: Full Code , confirmed
# CONTACT: ___ 

PATIENT SUMMARY:
====================
Mr. ___ is a ___ year old ___ with ___ year 
smoking history who presented from OSH with lower back and chest 
pain and initial troponin elevation to 0.288, and BNP 1756. 
Trops subsequently downtrended, but given history of risk 
factors (smoking, hypertension, and morbid obesity) he was taken 
for coronary angiogram on ___. Coronaries showed no evidence of 
atherosclerotic disease. Likely ___ NSTEMI related to volume 
overload, uncontrolled hypertension, or ___ hypoxemia for 
possible OSA/obstructive lung disease/obesity hypoventilation. 
The patient was medically optimized and discharged home. 

====================
ACUTE ISSUES:
====================
#NSTEMI
Troponin leak peaked at 0.288 with no EKG changes during his 
hospitalization. Chest pain was likely musculoskeletal in 
nature. However, given patient's risk factors (smoker, sedentary 
lifestyle, obese) he went for coronoary angiogram ___. No clear 
WMA on TTE and preserved global systolic function, but severely 
limited by habitus. He was diuresed lightly with IV Lasix 20mg, 
and was euvolemic on discharge. He improved clinically and will 
be discharged with close follow up.

#Hypertension
Reported history of hypertension as an outpatient, however 
currently not on any antihypertensive regimen. He was started on 
lisinopril 10mg daily which should be uptitrated as an 
outpatient as tolerated. 

#Hypoxemia
Suspect likely ___ obesity hypoventilation with components of 
obstructive sleep apnea. Low suspicion for volume overload 
currently, though was diuresed slightly. No prior h/o lung 
disease however significantly wheezy on exam. Likely also has 
undiagnosed
Asthma/ COPD given extensive smoking history. 

#Lower back pain
Likely musculoskeletal strain. Encouraged the patient to follow 
up as outpatient for ___. Can also consider imaging of lumbar 
spine if symptoms persist.

Greater than 60 minutes were spent on discharge planning. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
RX *albuterol sulfate 90 mcg 2 puff inh every six (6) hours Disp 
#*1 Inhaler Refills:*0 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
Atypical chest pain
NSTEMI 

SECONDARY DIAGNOSES
===================
Morbid obesity
Tobacco Dependence
Normocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
chest pain

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent a procedure to examine the blood vessels in your 
heart. The procedure showed no abnormalities. 
- You had some extra fluid and received a water pill (called 
Lasix). 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Seek medical attention if you have ___ or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 480 lbs. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___